US06821977B2
3-Formylamino-2-hydroxy-benzoic acid methyl ester
To a solution of methyl-3-aminosalicylate (3.34 grams, 20 mmol) in concentrated formic acid (20 mL) was added solid sodium formate (1.36 grams, 20 mmol, 1 eq.) and the resulting suspension stirred under reflux for 2 hours. The precipitate was filtered at room temperature and washed with water until neutral. After drying on air, 3.595 grams (92%) light brown crystals were collected. M+196, M−194.

reactant | methyl-3-aminosalicylate | 20 mmol, 3.34 grams | COC(C=1C(O)=C(C=CC1)N)=O | C8H9NO3
reactant | sodium formate | 20 mmol, 1.36 grams, 1 eq. | C(=O)[O-].[Na+]
solvent | formic acid | 20 mL | C(=O)O | CH2O2
product | 3-Formylamino-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C(=CC=C1)NC=O)O)=O | C9H9NO4
